US07741317B2
Scheme 5 describes an example of bromination of a tetrahydrobenzazepine intermediate. Bromine can be added slowly to commercially available 3-bromo-1,3,4,5-tetrahydro-1-benzazepin-2-one in acetic acid with stirring at room temperature to provide the useful intermediate 3,7-dibromo-1,3,4,5-tetrahydro-1-benzazepin-2-one, which can be used in many transformations described herein. Bromination using similar conditions can be carried out on other amino aryl cores described herein to provide intermediates for transformation to the compounds of the invention described in Schemes 8, 9 and 10.

reactant | tetrahydrobenzazepine | N1CCCCC2=C1C=CC=C2 | C10H13N
reactant | Bromine | BrBr | Br2
reactant | 3-bromo-1,3,4,5-tetrahydro-1-benzazepin-2-one | BrC1C(NC2=C(CC1)C=CC=C2)=O | C10H10BrNO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,7-dibromo-1,3,4,5-tetrahydro-1-benzazepin-2-one | BrC1C(NC2=C(CC1)C=C(C=C2)Br)=O | C10H9Br2NO
